US06900216B2
Approximately 5 ml of a solution of 4-bromobenzo[b]thiophene (1.85 g; prepared in a manner similar to that described in Bull. Soc. Chim. Fr., 1966, 111, 3667) in tetrahydrofuran (20 ml) was added under nitrogen to magnesium turnings (0.22 g) in tetrahydrofuran (2 ml). Two crystals of iodine were added, and the mixture was heated to initiate the reaction. The remainder of the 4-bromo-benzo[b]thiophene solution was added at reflux temperature over 15 minutes, then the mixture was heated under reflux 20 minutes and allowed to cool to ambient temperature. A solution of N-methoxy-N-methylbutyramide (1.13 g) in tetrahydrofuran (10 ml) was added, the mixture was heated under reflux for 50 minutes, then it was allowed to cool to ambient temperature and 2M hydrochloric acid (25 ml) was added. The mixture was stirred at ambient temperature for 1 hour, then the product was extracted into ethyl acetate (100 ml). The extract was washed with water (50 ml) and saturated aqueous sodium chloride solution (2×50 ml), dried (Na2SO4), and the solvents were removed in vacuo. The residue was purified by flash chromatography over silica using a 96:4 mixture of petroleum ether (b.p. 60-80° C.) and ethyl acetate as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 1-(benzo[b]thiophen-4-yl)butan-1-one (0.41 g) as a colourless oil which was used without further purification.

reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | magnesium | 0.22 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | N-methoxy-N-methylbutyramide | 1.13 g | CON(C(CCC)=O)C | C6H13NO2
reactant | hydrochloric acid | 2M, 25 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(benzo[b]thiophen-4-yl)butan-1-one | 0.41 g | S1C2=C(C=C1)C(=CC=C2)C(CCC)=O | C12H12OS
